US05559113
4-[3-(4-Fluorophenoxy)propyl]-1H-imidazole
A solution of 147 mg (0.4 mmol) of 1-triphenylmethyl-4-[3-(4-fluorophenoxy)propyl]-1H-imidazole in 1 ml of tetrahydrofuran and 2 ml of 2N hydrochloric acid is heated at 70° C. for 2 hours. The tetrahydrofuran is then evaporated under reduced pressure. The aqueous solution is filtered and basified with potassium bicarbonate. The product is extracted with chloroform and dried over magnesium sulphate. The solvent is evaporated under reduced pressure to give the title compound in the form of a white solid, M.p.: 135°-137° C.

reactant | 1-triphenylmethyl-4-[3-(4-fluorophenoxy)propyl]-1H-imidazole | 0.4 mmol, 147 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCOC1=CC=C(C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H27FN2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 2 ml | Cl | ClH
product | 4-[3-(4-Fluorophenoxy)propyl]-1H-imidazole | FC1=CC=C(OCCCC=2N=CNC2)C=C1 | C12H13FN2O
